Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Hyponatremia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a pleasant ___ w/ monoclonal IgG kappa in the
blood and Bence ___ excretion in the urine, who is status post
treatment with thalidomide with plateauing of his paraprotein 
and
Velcade and Decadron with more recent starting of Revlimid with
development of rash. He is being admitted for management of
worsening hyponatremia. He was found in clinic to have a Na 
level
of 123 with normal mental status. He was sent to the ED where it
was found to be 127. 

On arrival to oncology service, pt denied having any headaches.
Denied any use of nsaids (asides from aspirin). States his diet
has been poor the last year since his wife died ___.
___ a bland diet with at least ___ water.

 
Past Medical History:
PAST ONCOLOGIC HISTORY (per OMR):
 - Presented with monoclonal IgG gammopathy, which was noted
during his workup for PMR.  Bone marrow aspirate and biopsy
revealed 20% plasma cells by CD138 staining.  He is noted for an
elevated monoclonal protein at 1300 mg/dL of IgG kappa with
depression of his IgA and IgM.  He also had a monoclonal protein
in his urine and a suspicious lytic lesion in his skeletal 
survey
within the humerus.  
 - Started on thalidomide on ___.  On follow up
evaluation, on ___, noted for a drop in his sodium to 123
and his thalidomide was placed on hold.  
 - With persistent low sodium, admitted to ___ for
further evaluation.  Placed on a fluid restriction diet and
decreased alcohol intake and his sodium has recovered.
 - Restarted thalidomide on ___ with increasing doses up
to 150 mg daily by ___.  This was discontinued on
___ as his IgG free light chain and SPEP plateaued.
 - Received two cycles of Velcade and dexamethasone with the
first cycle on ___ and his second cycle on ___. 
Treatment was complicated by increasing diarrhea and some nausea
and vomiting but with good response to therapy.  
 - Restaging by bone marrow aspirate and biopsy on ___,
which showed plasma cells comprising less than 5% of marrow core
cellularity.  Now being followed over time with his treatment
currently on hold.  He receives Zometa every 3 - 4 months.
 - Admission at ___ from ___ to ___ 
with
abdominal pain and cramping and bright red blood per rectum.  No
infectious etiology and biopsies taken on colonoscopy showed
ischemic colitis although the etiology of this was unclear. 
 - Slow rise in myeloma parameters.  Repeat bone marrow biopsy 
on
___ with no evidence of myeloma, and on ___ showed
plasma cells are 4% of the aspirate differential and
approximately 5% by CD138 immunostaining of the core biopsy,
occurring singly and in occasional clusters.  By immunoglobulin
light chain staining for kappa and lambda, clonality is 
difficult
to reliably assess due to low numbers.  Possibility of minimal
involvement by patient's known plasma cell dyscrasia cannot be
excluded. 
 - ___, repeat bone marrow biopsy showed increasing plasma
cells to 30 % involvement by CD138 staining. 
 - Early ___, presented to ___ and admitted with
bowel obstruction; underwent exploratory laparotomy with noted
adhesions from prior hernia surgery as well as fat wrapped 
around
his bowels causing the obstruction.  Recovered with no further
issues.  
 - ___, started treatment with Velcade 1 mg/m2 SQ weekly
with Decadron for 3 weeks.
 - ___, C2 Velcade/Decadron weekly for 3 weeks. Dose of
Velcade increased to 1.3 mg/m2 on D 15.
 - ___, C3 Velcade/Decadron 1.3 mg/m2 SQ given on 1, 4, 8,
11 schedule.
 - ___, C4 Velcade/Decadron 1.3 mg/m2 SQ given on 1, 4, 8,
11 schedule (D 11 not given as developed diarrhea).
 - ___ of D 11 treatment), seen at ___
EW for evaluation of diarrhea.  Lab work unremarkable.  EKG
normal and received IVF's.  Symptoms completely resolved with no
further abdominal pain or diarrhea.  Noted for increased Amylase
and Lipase and evaluated by Gastroenterology with improvement
over time.
 - ___, restarted Velcade/Decadron on D1, D8 and D 15
schedule.  Continues on this schedule. 
 - ___, treatment on hold while evaluating GI symptoms. 
Evaluated by GI.  CT scan did not show any abnormalities.  Was
not able to get colonoscopy but symptoms improved.
 - ___, restarted treatment with Velcade/Decadron on D1,
D8, and D15.   
 - ___, treatment on hold again as wife became ill with
probable massive stroke and passed away in mid ___.
 - ___, hyponatremia and evaluated by Dr. ___ renal;
felt related to drinking too much water.
 - ___, restarted treatment with Velcade/Decadron on D1,
D8, D15. D8, D15 given at ___ with Dr. ___. 
 - ___, treatment on hold for ~ 1 month due to GI illness;
restarted on ___.
 - ___, restarted treatment with Velcade on D1, 4, 8, 11
schedule as FK increasing over time.  Treatment now every 3
weeks. 
 - ___, Switch back to Velcade D 1, 8, 15 schedule with
increasing stomach issues.  Not able to tolerate Velcade with
ongoing stomach issues. 
 - ___, Started on low dose Revlmid 5 mg daily.  Developed
a rash after 1 week on treatment and Revlimid on hold as of
___.  Started on treatment dose of Valtrex given concern
for Zoster.
 - ___, Seen by dermatology and biopsy done.

PAST MEDICAL HISTORY (per OMR):
1.  Hypertension.
2.  GERD.
3.  COPD.
4.  Rosacea.
5.  Eczema.
6.  Anxiety.
7.  Osteoarthritis of the feet.
8.  Benign and stable pulmonary nodules.
9.  Allergic rhinitis.
10.  Actinic keratosis.
11.  Basal cell carcinoma.
12  SBO
13  Multiple myeloma 
 
Social History:
___
Family History:
Father died with COPD.  Mother died at ___ with an arthropathy, 
questionable rheumatoid arthritis.  One brother suicide.  One 
brother with depression and coronary artery disease.  One 
sister, two brothers, and two sons otherwise healthy.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITAL SIGNS:  97.8 PO 127 / 66 59 18 98 ra
General:  NAD, Resting in bed comfortably
HEENT:  MMM, no OP lesions 
CV:  RR, NL S1S2 no S3S4 No MRG
PULM:  CTAB, No C/W/R, No respiratory distress
ABD:  BS+, soft, NTND, no peritoneal signs 
LIMBS: WWP, no ___, no tremors
SKIN:  No notable rashes on trunk nor extremities
NEURO: CN III-XII intact, strength b/l ___ intact
PSYCH: Thought process logical, linear, future oriented
ACCESS: PIV
SKIN: Rash improved 

DISCHARGE PHYSICAL EXAM:
========================
VITAL SIGNS: ___ 0726 Temp: 97.6 PO BP: 125/62 HR: 56 RR: 
18
O2 sat: 99% O2 delivery: RA 
General:  NAD, Resting in bed comfortably
HEENT:  MMM, no OP lesions 
CV:  RR, NL S1S2 no S3S4 No MRG
PULM:  CTAB, No C/W/R, No respiratory distress
ABD:  BS+, soft, NTND, no peritoneal signs 
LIMBS: WWP, no ___, no tremors
SKIN:  No notable rashes on trunk nor extremities
NEURO: CN III-XII intact, strength b/l ___ intact
PSYCH: Thought process logical, linear, future oriented
ACCESS: PIV
SKIN: Rash improved 

 
Pertinent Results:
===============
ADMISSION LABS:
===============
___ 01:41PM BLOOD WBC-7.0 RBC-2.74* Hgb-8.4* Hct-24.3* 
MCV-89 MCH-30.7 MCHC-34.6 RDW-12.4 RDWSD-39.5 Plt ___
___ 01:41PM BLOOD Neuts-77.0* Lymphs-9.0* Monos-10.3 
Eos-3.3 Baso-0.1 Im ___ AbsNeut-5.37 AbsLymp-0.63* 
AbsMono-0.72 AbsEos-0.23 AbsBaso-0.01
___ 01:41PM BLOOD Plt ___
___ 01:41PM BLOOD UreaN-33* Creat-1.3* Na-123* K-4.8 Cl-93* 
HCO3-18* AnGap-12
___ 01:41PM BLOOD ALT-13 AST-16 LD(LDH)-178 AlkPhos-57 
TotBili-0.4
___ 01:41PM BLOOD TotProt-7.1 Albumin-4.0 Globuln-3.1 
Calcium-8.3* Phos-3.1 Mg-2.0
___ 08:08PM BLOOD Glucose-94 UreaN-28* Creat-1.3* Na-127* 
K-4.6 Cl-97 HCO3-17* AnGap-13
___ 01:41PM BLOOD Osmolal-264*
___ 03:24PM URINE Hours-RANDOM Creat-23 Na-22 TotProt-<4 
Prot/Cr-<0.2
___ 03:24PM URINE U-PEP-NO PROTEIN Osmolal-177

========================
PERTINENT INTERVAL LABS:
========================
___ 01:41PM BLOOD PEP-ABNORMAL B FreeKap-228.9* 
___ Fr K/L-16.47* IgG-1446 IgA-40* IgM-12*

===============
DISCHARGE LABS:
===============
___ 06:45AM BLOOD WBC-4.1 RBC-2.80* Hgb-8.6* Hct-25.9* 
MCV-93 MCH-30.7 MCHC-33.2 RDW-12.9 RDWSD-42.2 Plt ___
___ 06:45AM BLOOD Glucose-76 UreaN-29* Creat-1.3* Na-135 
K-5.2 Cl-102 HCO3-20* AnGap-13
___ 06:45AM BLOOD Calcium-8.3* Phos-2.3* Mg-2.2

 
Brief Hospital Course:
Mr. ___ is an ___ man w/ monoclonal IgG kappa myeloma w/ 
BJ excretion in the urine, s/p thalidomide, Velcade/Decadron, 
and recent Revlimid who was admitted with acute hyponatremia.

Hyponatremia was recurrent, most likely due to increased free 
water intake. He had no neurologic sequelae of hyponatremia and 
his serum sodium normalized with normal fluid intake.

=============
ACUTE ISSUES:
=============
# Acute Hyponatremia, recurrent:
Sodium noted to be 123 on the day of admission (___) and then 
normalized to 135 on the morning of discharge (___) without 
formal free water restriction. History and urine lytes on 
admission consistent with primary polydipsia. Patient was 
counseled on adequate (and avoiding excessive) free water 
intake. Patient understands to reduce free water intake and will 
try to drink no more than 60-oz daily. He will try to drink to 
thirst. He will need a repeat chemistry panel at outpatient 
follow up next week ___.

# Multiple myeloma:
Most recently with rising free kappa, and restarted on Velcade 
(C28 D1 ___. However, has been unable to tolerate Velcade 
because of GI symptoms. On ___, he was started on  low 
dose Revlmid 5 mg daily. Unfortunately, he developed
a rash after 1 week on treatment as below, and Revlimid has been 
on hold. Plan to follow up with outpatient oncologist on ___ 
to determine future treatment plan.

#Rash:
Developed a rash after 1 week on treatment and Revlimid in 
___. Started on treatment dose of Valtrex given concern for 
Zoster, and Revlimid held. Seen by dermatology and underwent 
skin biopsy with results pending at discharge. Will continue 
Valtrex ___ mg BID (renally dosed given his CRI). 

# Hypertension: Held home lisinopril while inpatient given 
normal BPs and electrolyte abnormalities. Lisinopril held at 
discharge; can be restarted at the discretion of his outpatient 
providers.

====================
TRANSITIONAL ISSUES:
====================
- Discharge [Na]=135
- Discharge Cr=1.3

[ ] Recommend repeat chemistry panel drawn on ___ at scheduled 
follow up
[ ] Lisinopril held at discharge given normal blood pressures 
and electrolyte abnormalities. This can be restarted at the 
discretion of his outpatient providers.
[ ] Patient counseled to avoid excessing water drinking
[ ] Please ensure follow up of skin biopsies
[ ] Please ensure follow up with outpatient oncologist on 
___ to determine future treatment plan for multiple myeloma.

#CONTACT
Next of Kin: ___ 
    Relationship: DAUGHTER 
    Phone: ___ 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO Q12H 
2. Lisinopril 5 mg PO DAILY 
3. Ondansetron 8 mg PO BID:PRN nausea 
4. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  ValACYclovir 1000 mg PO BID 
RX *valacyclovir 1,000 mg 1 tablet(s) by mouth every twelve (12) 
hours Disp #*60 Tablet Refills:*0 
2.  Aspirin 81 mg PO DAILY  
3.  Ondansetron 8 mg PO BID:PRN nausea  
4. HELD- Lisinopril 5 mg PO DAILY  This medication was held. Do 
not restart Lisinopril until discussing with your outpatient 
doctors.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: Hyponatremia

SECONDARY DIAGNOSIS: Multiple myeloma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___ 
___.

You were admitted to the hospital with a low sodium level (also 
known as "hyponatremia").  This was most likely caused by 
drinking too much water.  Your sodium level became normal after 
you were admitted to the hospital and were drinking a regular 
amount of water.

After you leave the hospital, it is important to try to drink as 
guided by thirst and is not to drink too much water.  As we 
discussed, it is okay to aim for about 5 glasses of water per 
day.  You can discuss the right amount to drink with your 
doctors in the future as we get more information from your labs.

Thank you for letting us participate in your care.  We wish you 
the best!
Your ___ care team
 
Followup Instructions:
___